US05389641
26a) 4-Methyl-2-nitrobenzoic acid
A mixed solution of 2-nitro-4-methylbenzonitrile (15.8 g) in a mixture of 65% sulfuric acid and acetic acid (150 ml) was heated under reflux for 17 hours. After concentration, the residue was poured into ice-water and extracted with ethyl acetate. The extract was washed with water, dried and concentrated to dryness. Recrystallization of crystals from ether-hexane afforded colorless crystals (16.5 g, 94%), m.p. 156°-157° C.

reactant | 2-nitro-4-methylbenzonitrile | 15.8 g | [N+](=O)([O-])C1=C(C#N)C=CC(=C1)C | C8H6N2O2
reactant | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
solvent | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 4-Methyl-2-nitrobenzoic acid | CC1=CC(=C(C(=O)O)C=C1)[N+](=O)[O-] | C8H7NO4
